US08138197B2
4-(Benzo[b]thiophen-2-yl)benzoic acid
Aqueous 5 N sodium hydroxide solution (0.28 mL, 1.40 mmol) was added to a methanol (2.3 mL) solution of methyl 4-(benzo[b]thiophen-2-yl)benzoate (124 mg, 0.462 mmol), and refluxed for 3 hours. After left cooled, 5 N hydrochloric acid (0.28 mL, 1.40 mmol) was added to the reaction mixture, and concentrated under reduced pressure. 20% methanol/THF was added to the residue, the mixture was filtered, and the filtrate was concentrated under reduced pressure. Diethyl ether was added to the residue, the insoluble matter was taken out through filtration, and dried to obtain the title compound as a pale yellow solid.

reactant | sodium hydroxide | 1.40 mmol, 5 N, 0.28 mL | [OH-].[Na+]
reactant | methyl 4-(benzo[b]thiophen-2-yl)benzoate | 0.462 mmol, 124 mg | S1C2=C(C=C1C1=CC=C(C(=O)OC)C=C1)C=CC=C2 | C16H12O2S
reactant | hydrochloric acid | 1.40 mmol, 5 N, 0.28 mL | Cl | ClH
solvent | methanol | 2.3 mL | CO | CH4O
product | 4-(Benzo[b]thiophen-2-yl)benzoic acid | S1C2=C(C=C1C1=CC=C(C(=O)O)C=C1)C=CC=C2 | C15H10O2S
